US07476758B2
To a mixture of 4-bromo-3,5-dimethoxybenzylalcohol (44.5 g), triethylammonium benzyl chloride (2.05 g) and 20% aqueous sodium hydroxide solution (288 g) was added diethyl sulfate (41.7 g) under ice-cooling, and the mixture was stirred overnight at 25-30° C. After stirring for 1 hour at 70° C., the mixture was cooled and extracted with toluene. The toluene layer was washed with water and saturated aqueous NaCl solution and dried over magnesium sulfate. The solvent was removed in vacuo to yield 4-bromo-3,5-dimethoxybenzyl ethyl ether (49.5 g) as colorless oil.

reactant | 4-bromo-3,5-dimethoxybenzylalcohol | 44.5 g | BrC1=C(C=C(CO)C=C1OC)OC | C9H11BrO3
reactant | sodium hydroxide | 288 g | [OH-].[Na+]
reactant | diethyl sulfate | 41.7 g | S(=O)(=O)(OCC)OCC | C4H10O4S
catalyst | triethylammonium benzyl chloride | 2.05 g | C(C1=CC=CC=C1)Cl.C(C)[NH+](CC)CC
product | 4-bromo-3,5-dimethoxybenzyl ethyl ether | 49.5 g | C(C)OCC1=CC(=C(C(=C1)OC)Br)OC | C11H15BrO3
